US07109234B2
Stage 1: 1-(3-Triphenylmethyloxy-2-(S)-hydroxy-propylthio)-2-methoxybenzene (XII-1)
19.3 g (0.09 mol) of 1-(3-hydroxy-2-(S)-hydroxy-propylthio)-2-methoxybenzene (XI-1), 150 ml of acetonitrile, 11 ml (0.136 mol) of pyridine and 27.5 g (0.098 mol) of triphenylmethyl chloride are introduced into a round-bottomed flask under an inert atmosphere. The solution is stirred at ambient temperature for 5 hours. The mixture is concentrated under reduced pressure and the residual pyridine is entrained by azeotropic distillation with toluene. The residue is taken up in water and then extracted with dichloromethane. The combined organic phases are dried over sodium sulfate, filtered and evaporated, and the residue is purified by flash chromatography on silica gel (eluent: cyclohexane/dichloromethane=30:70). 34.8 g (0.076 mol) of the title compound (XII-1) are recovered in the form of a yellow oil.

reactant | 1-(3-hydroxy-2-(S)-hydroxy-propylthio)-2-methoxybenzene | 0.09 mol, 19.3 g | OC[C@@H](CSC1=C(C=CC=C1)OC)O | C10H14O3S
reactant | pyridine | 0.136 mol, 11 ml | N1=CC=CC=C1 | C5H5N
reactant | triphenylmethyl chloride | 0.098 mol, 27.5 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 1-(3-Triphenylmethyloxy-2-(S)-hydroxy-propylthio)-2-methoxybenzene | 0.076 mol, 34.8 g, Yield: 85% | C1(=CC=CC=C1)C(OC[C@@H](CSC1=C(C=CC=C1)OC)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H28O3S
